US04656028
A high speed propeller mixer provided with a scraper was charged with the PEG-400, and the cross-linked CMC sodium was added, while stirring. After all lumps were broken up and a uniform slurry was obtained, the ground limestone was added in portions, and stirring was continued until all of the solids were suspended. The resulting slurry was homogenized and dearated and then filled into #11 oblong A size soft gelatin capsules by means of a rotary die encapsulator. The shell of the capsules was formed from gelatin, water, sorbitol and glycerin, and contained vanillin flavoring agent and titanium dioxide opacifier.

reactant | sodium | [Na] | Na
reactant | water | O | H2O
reactant | glycerin | OCC(O)CO | C3H8O3
product | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
